US06174884B1
6-(3,4,5-Trimethoxy-benzyl)-1(1-methyl-4-phenyl-butyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
400 mg (1.4mmol) of 5-amino-3-ethyl-1-(1-methyl-4-phenyl-butyl)-1H-pyrazole-4-carboxamide, 750 mg (6.7 mmol) of potassium tert-butoxide and 720 mg (3.0 mmol) of methyl 3,4,5-trimethoxy-phenylacetate are refluxed for 16 hours in 10 ml of ethanol. After the solvent has been removed, the mixture is acidified with 1N HCl, extracted 3 times with dichloromethane, the organic phase is dried over sodium sulphate and the solvent is removed in vacuo. Purification by chromatography gives 286 mg (40%) of a solid, Rf=0.62 (ethyl acetate/cyclohexane=2:1).

reactant | 5-amino-3-ethyl-1-(1-methyl-4-phenyl-butyl)-1H-pyrazole-4-carboxamide | 1.4mmol, 400 mg | NC1=C(C(=NN1C(CCCC1=CC=CC=C1)C)CC)C(=O)N | C17H24N4O
reactant | potassium tert-butoxide | 6.7 mmol, 750 mg | CC(C)([O-])C.[K+]
reactant | methyl 3,4,5-trimethoxy-phenylacetate | 3.0 mmol, 720 mg | COC=1C=C(C=C(C1OC)OC)CC(=O)OC | C12H16O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(3,4,5-Trimethoxy-benzyl)-1(1-methyl-4-phenyl-butyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 286 mg, 40% | COC=1C=C(CC=2NC(C3=C(N2)N(N=C3CC)C(CCCC3=CC=CC=C3)C)=O)C=C(C1OC)OC | C28H34N4O4
